US05292937
Part A. Preparation of dimethyl 2.3-diphenylcyclopropene-1,1-dicarboxylate
A 100 millilater round-bottom flask was equipped with a magnetic stirrer and reflux condenser with N2 inlet. The flask was charged with 25.0 grams (0.140 mole) of diphenylacetylene and 140 milligrams of cupric acetylacetonate. The mixture was heated to 120° C. using an oil bath and 8.85 grams (0.056 mole) of dimethyl diazomalonate was added over 24 hours using a syringe pump. When all of the dimethyl diazomalonate had been added, heating at 120° C. was continued for 8 hours. The diphenylacetylene was distilled off under vacuum, boiling point 170° C./19 Mm. The residue was purified by flash chromatography eluting with 75:25 hexane-ethyl acetate to give 4.65 grams (0.015 mole) of the desired product as a white solid. NMR analysis of the product indicated the following:

reactant | diphenylacetylene | 0.140 mole, 25.0 grams | C1(=CC=CC=C1)C#CC1=CC=CC=C1 | C14H10
reactant | dimethyl diazomalonate | 0.056 mole, 8.85 grams | [N+](=[N-])=C(C(=O)OC)C(=O)OC | C5H6N2O4
catalyst | cupric acetylacetonate | 140 milligrams | CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Cu]
product | dimethyl 2.3-diphenylcyclopropene-1,1-dicarboxylate | 0.015 mole, 4.65 grams | C1(=CC=CC=C1)C=1C(C1C1=CC=CC=C1)(C(=O)OC)C(=O)OC | C19H16O4
